US08048894B2
Method 4. Preparation of 4-(4-Hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoic acid
6-Iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl methyl succinate. Methyl 4-chloro-4-oxobutyrate (0.08 mL, 0.662 mmol) was added to a suspension of 4-hydroxy-6-iodo-1-methyl-1,8-naphthyridin-2(1H)-one (0.20 g, 0.66 mmol), TEA (0.092 mL, 0.66 mmol) in 1,2-dichloroethane (3 mL). The mixture was stirred for 15 minutes and evaporated. The remaining solids were purified by flash chromatography using EtOAc/hexane to afford the title compound in 60% yield. 1H-NMR (300 MHz, CDCl3) δ ppm 8.78 (1H, d, J=2.2 Hz), 8.34 (1H, d, J=2.2 Hz), 6.68 (1H, s), 3.78 (3H, s), 3.77 (3H, s), 3.02-2.98 (2H, m), 2.84-2.79 (2H, m). MS m/z: 417 (M+).

reactant | 6-Iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl methyl succinate | C(CCC(=O)OC)(=O)OC1=CC(N(C2=NC=C(C=C12)I)C)=O | C14H13IN2O5
reactant | Methyl 4-chloro-4-oxobutyrate | 0.662 mmol, 0.08 mL | ClC(CCC(=O)OC)=O | C5H7ClO3
reactant | 4-hydroxy-6-iodo-1-methyl-1,8-naphthyridin-2(1H)-one | 0.66 mmol, 0.20 g | OC1=CC(N(C2=NC=C(C=C12)I)C)=O | C9H7IN2O2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 4-(4-Hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoic acid | 60% yield | OC1=C(C(N(C2=NC=C(C=C12)I)C)=O)C(CCC(=O)O)=O | C13H11IN2O5
